US05677459
Sodium borohydride (862 mg, 22.8 mmol) was dissolved in ethanol (20 mL) and tellurium metal powder (1.45 g, 11.4 mmol) was added in portions. The mixture was heated under reflux for 0.25 h and 5-bromo-3-(3,3-dibromo-1-methyl-5-pyrrolidin-2-onyl)pyridine (775 mg, 1.9 mmol) was added to the solution at 25° C. After stirring for 2 h, ethyl acetate (50 mL) was added and the solution was filtered through Celite and concentrated in vacuo. 1M HCl (10 mL) was added to the residue and the solution was adjusted to pH 11 with solid potassium carbonate. After extraction with ethyl acetate (50 mL) the organic phase was separated. The aqueous phase was extracted with ethyl acetate (2×50 mL) and the combined organic phases were washed with brine (30 mL), dried (MgSO4) and concentrated. This material was chromatographed on silica gel with ethyl acetate:hexane (1:1) as eluant to afford 5-bromo-3-(1-methyl-5-pyrrolidin-2-onyl)pyridine as a solid (329 mg, 68%). M.p. 85°-87° C.; 1H NMR (CDCl3, 300 MHz): δ 8.66 (d, J=2 Hz, 1H), 8.42 (d, J=2 Hz, 1H), 7.68 (t, J=2 Hz, 1H), 4.56 (t, J=7 Hz, 1H), 2.71 (s, 3H), 2.45-2.65 (m, 2H), 1.80-1.95 (m, 2H).

reactant | Sodium borohydride | 22.8 mmol, 862 mg | [BH4-].[Na+]
reactant | tellurium | [Te] | Te
reactant | 5-bromo-3-(3,3-dibromo-1-methyl-5-pyrrolidin-2-onyl)pyridine | 1.9 mmol, 775 mg | BrC=1C=C(C=NC1)C1CC(C(N1C)=O)(Br)Br | C10H9Br3N2O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-bromo-3-(1-methyl-5-pyrrolidin-2-onyl)pyridine | 329 mg, 68% | BrC=1C=C(C=NC1)C1CCC(N1C)=O | C10H11BrN2O
